US04795751
In the same manner as described in Example 1 (1), a mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 1-methylpiperazine, and xylene was refluxed for 3 hours to give 5-amino-1-cyclopropyl-6,8-difluoro-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, m.p. 254°-255° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 5-amino-1-cyclopropyl-6,8-difluoro-7-(4-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CCN(CC1)C)F)C1CC1)C(=O)O)=O | C18H20F2N4O3
